US06518222B2
7. Preparation of 3-Methoxy-5-trifluoromethyl-2-thiophenecarboxylic acid
A solution of 2 g (14 mmole) of methyl-3-methoxy-5-trifluoromethyl-2-thiophenecarboxylate , 2 g (28 mmole) of KOH in a mixture of 15 mL water and 50 mL of methanol was refluxed for 2 hr. The reaction mixture was partitioned with ether and dilute aqueous HCl. The organic phase was separated, dried over MgSO4, filtered and concentrated to give 2.8 g (87%) of a colorless solid. mp 131-132° C. 1H NMR (300 MHz, CDCl3): δ 7.2 (s, 1H); 4.1 (s, 3H). Anal. Calc'd for C7H5F3O3S: C, 37.17; H, 2.23; S, 14.18. Found: C, 36.96; H, 2.19; S, 14.08.

reactant | methyl-3-methoxy-5-trifluoromethyl-2-thiophenecarboxylate | 14 mmole, 2 g | COC(=O)C=1SC(=CC1OC)C(F)(F)F | C8H7F3O3S
reactant | KOH | 28 mmole, 2 g | [OH-].[K+]
solvent | water | 15 mL | O | H2O
solvent | methanol | 50 mL | CO | CH4O
product | 3-Methoxy-5-trifluoromethyl-2-thiophenecarboxylic acid | 2.8 g, 87% | COC1=C(SC(=C1)C(F)(F)F)C(=O)O | C7H5F3O3S
